US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 2,5-dimethyl-4-hydroxyaniline were reacted to yield N2,N4-bis(2,5-dimethyl-4-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.63 (d, 1H, J=4.2 Hz), 7.05 (s, 1H), 6.97 (s, 1H), 6.64 (1H), 6.54 (s, 1H), 2.12 (s, 6H), 2.06 (s, 3H), 2.03 (s, 3H), 2.03 (s, 3H); 19F NMR (CD3OD): −48488; LCMS: ret. time: 18.28; purity; 94%; MS (m/e): 369 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2,5-dimethyl-4-hydroxyaniline | CC1=C(N)C=C(C(=C1)O)C | C8H11NO
product | N2,N4-bis(2,5-dimethyl-4-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | CC1=C(C=C(C(=C1)O)C)NC1=NC=C(C(=N1)NC1=C(C=C(C(=C1)C)O)C)F | C20H21FN4O2
